US04816447
Chloromethyl 1,3-Diacetoxy-2-propyl Ether
A solution of 4.34 g (17.5 mmole) of acetoxymethyl 1,3-diacetoxy-2-propyl ether in 45 ml of methylene chloride was stirred at room temperature as a gentle stream of HCl was passed through it. After 2 hours the HCl stream was removed. The flask was stoppered and allowed to stir overnight at room temperature. Then the flask was placed in a water bath at 25°-30°, and the solution was purged with a stream of N2 to remove most of the excess HCl. The remaining solution was concentrated by rotary evaporation. In order to remove traces of HCl, the residual oil was taken up in toluene and concentrated under high vacuum at room temperature. This process was repeated three more times. After vacuum drying at room temperature, the yield of colorless residual oil was 3.83 g (97%). The NMR spectrum indicated complete conversion to product.

reactant | acetoxymethyl 1,3-diacetoxy-2-propyl ether | 17.5 mmole, 4.34 g | C(C)(=O)OCC(COC(C)=O)OCOC(C)=O | C10H16O7
reactant | HCl | Cl | ClH
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | Chloromethyl 1,3-Diacetoxy-2-propyl Ether | C(C)(=O)OCC(COC(C)=O)OCCl | C8H13ClO5
